US04840953
Preparation of 3-ethoxycarbonyl-9-(4-sulfamoylbenzoyl)thio4H-pyrido[1,2-a]pyrimidin-4-one Ie-61.
To a solution of 0.48 g (2.4 mmol) of 4-sulfamoylbenzoic acid in 10 ml of DMF are added 0.29 g of Et3N and then 0.28 g ethyl chloroformate, and the mixture is stirred at room temperature for 1 hour and mixed with 0.5 g of solid 3-ethoxycarbonyl-9-mercapto-4H-pyrido[1,2-a]pyrimidin-4-one II-1. The mixture is stirred at room temperature for 2 hours, diluted with 100 ml of water and shaken with ethyl acetate. The organic layer is washed with water, dried and concentrated in vacuo. The residue is washed with ethyl acetate to give 0.68 g of the titled compound.

reactant | 4-sulfamoylbenzoic acid | 2.4 mmol, 0.48 g | S(N)(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C7H7NO4S
reactant | Et3N | 0.29 g | CCN(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.28 g | ClC(=O)OCC | C3H5ClO2
reactant | 3-ethoxycarbonyl-9-mercapto-4H-pyrido[1,2-a]pyrimidin-4-one | C(C)OC(=O)C1=CN=C2N(C1=O)C=CC=C2S | C11H10N2O3S
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | 100 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-ethoxycarbonyl-9-(4-sulfamoylbenzoyl)thio4H-pyrido[1,2-a]pyrimidin-4-one | 0.68 g, Yield: 78.5% | C(C)OC(=O)C1=CN=C2N(C1=O)C=CC=C2SC(C2=CC=C(C=C2)S(N)(=O)=O)=O | C18H15N3O6S2
